US07214673B2
(S)-2-Butyl-10-(4-methyl-3-phenethyl-piperazin-1-yl)-4H-3-thia-1,4,9-triaza-benzo[f]azulene dihydrochloride
Add a solution of acetyl chloride (0.15 mL, 2.1 mmol) in absolute ethanol at ambient temperature to (S)-2-Butyl-10-(4-methyl-3-phenethyl-piperazin-1-yl)-4H-3-thia-1,4,9-triaza-benzo[f]azulene (0.19 g, 0.41 mmol) in absolute ethanol, with added drops of methanol to solubilize the freebase, and concentrate under reduced pressure gives the title compound (0.18 g). Mass spectrum (APCI+, m/e): 460 (M+1−2HCl); exact mass spectrum (ES+, m/e, C27H33N5S.2HCl): calc. 460.2535 (M+1−2HCl), found 460.2556.

reactant | acetyl chloride | 2.1 mmol, 0.15 mL | C(C)(=O)Cl | C2H3ClO
reactant | (S)-2-Butyl-10-(4-methyl-3-phenethyl-piperazin-1-yl)-4H-3-thia-1,4,9-triaza-benzo[f]azulene | 0.41 mmol, 0.19 g | C(CCC)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](N(CC3)C)CCC3=CC=CC=C3 | C27H33N5S
reactant | methanol | CO | CH4O
solvent | ethanol | C(C)O | C2H6O
product | (S)-2-Butyl-10-(4-methyl-3-phenethyl-piperazin-1-yl)-4H-3-thia-1,4,9-triaza-benzo[f]azulene dihydrochloride | 0.18 g | Cl.Cl.C(CCC)C1=NC=2C(=NC3=C(NC2S1)C=CC=C3)N3C[C@@H](N(CC3)C)CCC3=CC=CC=C3 | InChI=1S/C27H33N5S.2ClH/c1-3-4-14-24-30-25-26(28-22-12-8-9-13-23(22)29-27(25)33-24)32-18-17-31(2)21(19-32)16-15-20-10-6-5-7-11-20;;/h5-13,21,29H,3-4,14-19H2,1-2H3;2*1H/t21-;;/m0../s1
